US07186843B2
4-(R)-(Thiazol-2-yl)carbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone
In an atmosphere of nitrogen and at −78° C., n-butyl lithium (20.4 ml, 30.0=mol, 1.47 M hexane solution) was added dropwise to a tetrahydrofuran solution (200 ml) of 2-bromothiazole (4.92 g, 30.0 mmol) spending 10 minutes, and the mixture was stirred at the same temperature for 1 hour. To this was added dropwise a tetrahydrofuran solution (50 ml) of N-methyl-N-methoxy-1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-carboxamide (6.91 g, 25.0 mmol) spending 10 minutes, and the mixture was stirred at −78° C. for 30 minutes and then under ice-cooling for 1 hour. The reaction solution was mixed with 1 mol/l hydrochloric acid (150 ml) under ice-cooling and extracted with ethyl acetate (100 ml×2), and the resulting organic layer was washed with saturated brine (300 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and the residue was applied to a silica gel column chromatography. By eluting with n-hexane:ethyl acetate (1:1), 2.70 g (36%) of the title compound was obtained as a light yellow oil.

reactant | n-butyl lithium | 1.47 M, 20.4 ml | C(CCC)[Li]
reactant | 2-bromothiazole | 30.0 mmol, 4.92 g | BrC=1SC=CN1 | C3H2BrNS
reactant | N-methyl-N-methoxy-1-[1-(R)-phenylethyl]-5-oxopyrrolidine-3-carboxamide | 25.0 mmol, 6.91 g | CN(C(=O)C1CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)OC | C15H20N2O3
reactant | hydrochloric acid | 1 mol/l, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(R)-(Thiazol-2-yl)carbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone | 2.70 g, 36% | S1C(=NC=C1)C(=O)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C16H16N2O2S
